US05262420
The procedure of Example 41 was repeated with the exception that 3.5 g of benzyl acetone in place of cinnamic aldehyde and 2.26 g of 3-ethyl-4-methylpyridine were used in Example 41, to obtain 3.26 g (yield: 59.8%) of (E)-1-(3-ethyl-4-pyridyl)-2-methyl-4-phenyl -1-butene (hereinafter referred to as compound 55) and o.95 g (yield: 17.4%) of (Z)-1-(3-ethyl-4-pyridyl)-2-methyl-4-phenyl-1-butene (hereinafter referred to as compound 56). The analytical results are shown below.

reactant | benzyl acetone | 3.5 g | C(C1=CC=CC=C1)CC(C)=O | C10H12O
reactant | 3-ethyl-4-methylpyridine | 2.26 g | C(C)C=1C=NC=CC1C | C8H11N
product | (E)-1-(3-ethyl-4-pyridyl)-2-methyl-4-phenyl -1-butene | 3.26 g, yield: 59.8% | C(C)C=1C=NC=CC1\C=C(\CCC1=CC=CC=C1)/C | C18H21N
